US07365085B2
b. Methyl 2-phenyl-4-methyl-4-pentenoic acid
A solution of diethyl 2-phenyl-2-(2-methyl-2-propenyl)malonate (1.63 g, 5.6 mmole) in 20 mL of EtOH and 5 mL of H2O was treated with NaOH (2 g), and refluxed for 3 hours. The reaction was cooled, diluted with H2O, and washed with Et2O. The aqueous layer was acidified and extracted with CH2Cl2. The extracts were dried and evaporated. The residue was dissolved in 5 mL of dimethylacetamide and heated to 125° for 1 hour. The reaction was cooled, diluted with H2O, acified, and extracted with Et2O. The extracts were washed with H2O, dried, and the solvent removed. The residue was dissolved in 10 mL of MEOH, a drop of concentrated H2SO4 was added, and stirred for 24 hours. The reaction was diluted with H2O, and extracted with Et2O. The extracts were washed with H2O, aqueous NaHCO3, dried and the solvent removed, and gave the titled compound, 953 mg (83%). MS (ESI) 205 (MH+)

reactant | diethyl 2-phenyl-2-(2-methyl-2-propenyl)malonate | 5.6 mmole, 1.63 g | C1(=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)CC(=C)C | C17H22O4
reactant | NaOH | 2 g | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | H2O | 5 mL | O | H2O
product | Methyl 2-phenyl-4-methyl-4-pentenoic acid | CC(C(=O)O)(CC(=C)C)C1=CC=CC=C1 | C13H16O2
